US06953806B2
In analogy to the method described in example 1.2, 1.65 g (5.66 mmol) of trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid benzyl ester were treated with dimethylsulfoxide/triethylamine in dichloromethane between −78° C. and room temperature to yield 1.6 g (97.6%) trans-(4-formyl-cyclohexylmethyl)-methyl-carbamic acid benzyl ester as colorless oil, MS: 289 (M).

reactant | trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid benzyl ester | 5.66 mmol, 1.65 g | C(C1=CC=CC=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CO)=O | C17H25NO3
reactant | dimethylsulfoxide triethylamine | CS(=O)C.C(C)N(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-(4-formyl-cyclohexylmethyl)-methyl-carbamic acid benzyl ester | 1.6 g, 97.6% | C(C1=CC=CC=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)C=O)=O | C17H23NO3
